US04663314
Dimethyl(4-ethoxyphenyl)silylmethanol
A mixture of chloromethyldimethyl(4-ethoxyphenyl)silane (0.55 gram), potassium acetate (0.47 gram) and 3 ml of DMSO was stirred for 1.5 hours at 90° C. After cooling to room temperature, the reaction mixture was added with water and extracted with ethyl ether. The ether extract was washed with saturated sodium chloride solution, dried, and concentrated. The residue (0.55 gram) was dissolved in 5 ml of ethyl ether. Lithium aluminum hydride (100 mg) was added to the resulting solution at 0° C. with stirring and the solution was stirred for 2 hours at the same temperature. After addition of a minimun amount of saturated ammonium chloride solution, the mixture was dried over anhydrous sodium sulfate, and concentrated. The residue was purified by column chromatography over silica gel (15 gram) using n-hexane:ethyl acetate (100:30) as the eluent to give the title compound as a white crystal. Yield 0.50 gram. Physicochemical data of the product is given in Table 4.

reactant | chloromethyldimethyl(4-ethoxyphenyl)silane | 0.55 gram | ClC[Si](C1=CC=C(C=C1)OCC)(C)C | C11H17ClOSi
reactant | potassium acetate | 0.47 gram | C(C)(=O)[O-].[K+]
reactant | DMSO | 3 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | Dimethyl(4-ethoxyphenyl)silylmethanol | CC(O)([SiH2]C1=CC=C(C=C1)OCC)C | C11H18O2Si
